US07442805B2
Synthesis of 1-benzyl-5-{[(4-tert-butylphenyl)sulfonyl]amino}-3-phenyl-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate and 4-tert-butylbenzene sulfonyl chloride followed the procedure of Example 1 Step 3 as a pale yellow solid: 1H NMR (DMSO-d6) δ 1.25 (s, 9H, 5.76 (s, 2H, 7.05-7.15 (m, 4H, 7.20-7.30 (m, 5H, 7.30-7.45 (m, 3H, 7.50-7.60 (m, 5H; MS (ESI) m/z 537 [M-H]−; HRMS calcd for C32H31N2O4S: 539.2002; found (ESI+): 539.1999.

reactant | ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C24H22N2O2
reactant | 4-tert-butylbenzene sulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 1-benzyl-5-{[(4-tert-butylphenyl)sulfonyl]amino}-3-phenyl-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=CC=C1)C(=O)O | C32H30N2O4S
